US04876269
1,2-Epoxy-2,3-dihydro-1-H indene, prepared from indene (34.2 g) according to the procedure of M. Imuta and H. Ziffer, J. Org. Chem., 44, 1351 (1979), was treated immediately with pyrrolidine (50 ml). The exothermic reaction mixture was set aside for 15 minutes and then evaporated to remove the excess pyrrolidine under reduced pressure. The residue was distilled under vacuum to yield trans-2,3-dihydro-2-hydroxy-1-(pyrrolidin-1-yl)-1H-indene (10.2 g), b.p. 148°-150°/0.25 torr.

reactant | 1,2-Epoxy-2,3-dihydro-1-H indene | O1C2C1CC1=CC=CC=C21 | C9H8O
reactant | indene | 34.2 g | C1C=CC2=CC=CC=C12 | C9H8
reactant | pyrrolidine | 50 ml | N1CCCC1 | C4H9N
product | trans-2,3-dihydro-2-hydroxy-1-(pyrrolidin-1-yl)-1H-indene | 10.2 g | O[C@H]1[C@@H](C2=CC=CC=C2C1)N1CCCC1 | C13H17NO
